US06130238
4-Methyl-2-oxindole (5 g) in 40 mL of acetonitrile was treated with 7.26 g of N-bromosuccinimide and stirred at room temperature for 4 hours. Thin layer chromatography (ethyl acetate:hexane 1:2, silica gel) showed a mixture of 5-bromo (Rf 0.3) and 5,7-dibromo (Rf 0.5) products. Another 7.26 g of N-bromosuccinimide was added and the mixture stirred for 4 additional hours. The solid was collected by vacuum filtration, washed with 20 mL of acetonitrile and dried to give a 1:1 mixture of mono and dibromo compounds. The filtrate was concentrated and chromatographed on silica gel (ethyl acetate:hexane (1:2)) to give 1.67 g of 5-bromo-4-methyl-2-oxindole as a beige solid. The remaining 1:1 mixture of solids was recrystallized twice from glacial acetic acid to give 3.2 g of 5,7-dibromo-4-methyl-2-oxindole as a light orange solid. The filtrates from this material were chromatographed as above to give 0.6 g of 5-bromo-4-methyl-2-oxindole and 0.5 g of 5,7-dibromo-4-methyl-2-oxindole.

reactant | 4-Methyl-2-oxindole | 5 g | CC1=C2CC(NC2=CC=C1)=O | C9H9NO
reactant | N-bromosuccinimide | 7.26 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
reactant | N-bromosuccinimide | 7.26 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | 5-bromo-4-methyl-2-oxindole | 1.67 g | BrC=1C(=C2CC(NC2=CC1)=O)C | C9H8BrNO
